US07582629B2
2-(2-Methoxyethyl)-4-[(3-morpholin-4-yl-1H-1,2,4-triazol-5-yl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 3-morpholin-4-yl-1H-1,2,4-triazol-5-amine in a similar manner as described for Example 13. 1H NMR (400 MHz, CD3CN): δ 7.49-7.61 (m, 5H), 5.71 (bs, 2H), 3.94 (t, 2H), 3.71 (t, 2H), 3.58-3.62 (m, 4H), 3.37 (s, 3H), 3.10-3.14 (m, 4H); Mass Spectrum: M+H+

reactant | 4-chloro-2-(2-methoxyethyl)-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCOC)=O | C12H12ClNO4S
reactant | 3-morpholin-4-yl-1H-1,2,4-triazol-5-amine | N1(CCOCC1)C1=NNC(=N1)N | C6H11N5O
product | 2-(2-Methoxyethyl)-4-[(3-morpholin-4-yl-1H-1,2,4-triazol-5-yl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | COCCN1S(C(=C(C1=O)NC1=NC(=NN1)N1CCOCC1)C1=CC=CC=C1)(=O)=O | C18H22N6O5S
